Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
urosepsis, obstructed nephrolithiasis, DVT, pregnancy at 36 
weeks gestation, pneumonia
 
Major Surgical or Invasive Procedure:
Right percutaneous nephrostomy ___
Endotracheal intubation ___
 
History of Present Illness:
Ms ___ is a ___ year old woman, G2P1001, currently 35 weeks 
pregnant, with history of DVT in her previous pregnancy, 
nephrolithiasis, pyelonephritis due to obstructing right 
ureteral stone,  who presented ___ with sepsis due to 
recurrent pyelonephritis. She was transferred to the FICU due to 
hypoxemic respiratory failure requiring intubation. 

She was diagnosed with pyelonephritis due to E.coli/staph 
epidermidis in ___, with CT showing 5mm stone and renal 
ultrasound showing marked hydronephrosis. She had a ureteral 
stent placed ___, removed ___. She had been on Keflex for 
suppression but stopped this 2 weeks prior to admission. 

On the night prior to admission she developed abdominal and low 
back pain, and presented to ___ for evaluation. At ___, she was 
febrile on arrival, as well as tachycardic and tachypneic. 
Additionally she was having intermittent contractions, but was 
C/L/high on serial cervical exams. FHT revealed fetal 
tachycardia to the 180s. On exam she had supra-pubic and right 
flank pain. CBC was notable for a ___ count of 18 and UA 
positive for leukocytes and nitrites. She received 2 liters of 
IVF, 1 g ceftriaxone and then transferred to ___. 

On evaluation here, EMS reported hypotension to the ___ as 
well as a tmax of 104.7. She reports persistent suprapubic pain. 
Denies VB, LOF, reports +FM and intermittent ctxs.
 
Past Medical History:
-G2P1, s/p C-section at full term in ___
-DVT in RLE during first pregnancy
-Breast augmentation
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
ICU ADMISSION PHYSICAL EXAM:
========================
VITALS:  T 100.8 HR 121, BP 116/64, RR 23, SPO2 100% on CMV FIO2 
100%, PEEP 10, RR 15, TV 300
GENERAL: intubated, sedated on propofol. Moves all extremities, 
opens eyes spontaneously 
HEENT: Sclera anicteric. PERRL 
NECK: supple, JVP not elevated, no LAD  
LUNGS: Diffuse rales and rhonchi 
CV: Tachycardic, regular rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, gravid,
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  dry, no rashes
NEURO:  PERRL, moves all extremities
ACCESS:  left radial A-line, peripheral IVs

DISCHARGE PHYSICAL EXAM:

 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:25PM   ___
___ 04:25PM   ___ PTT-24.4* ___
___ 04:25PM   PLT COUNT-154
___ 04:25PM   NEUTS-85.4* LYMPHS-5.7* MONOS-7.6 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-14.10* AbsLymp-0.94* 
AbsMono-1.25* AbsEos-0.00* AbsBaso-0.04
___ 04:25PM   WBC-16.5* RBC-3.12* HGB-9.9* HCT-28.7* MCV-92 
MCH-31.7 MCHC-34.5 RDW-13.0 RDWSD-43.3
___ 04:25PM   ALBUMIN-3.3* CALCIUM-8.5 PHOSPHATE-2.1* 
MAGNESIUM-1.4*
___ 04:25PM   ALT(SGPT)-7 AST(SGOT)-14
___ 04:25PM   estGFR-Using this
___ 04:25PM   GLUCOSE-79 UREA N-6 CREAT-0.7 SODIUM-136 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-19* ANION GAP-18
___ 04:53PM   LACTATE-2.1*
___ 05:00PM URINE  MUCOUS-RARE
___ 05:00PM URINE  RBC-16* WBC->182* BACTERIA-MOD 
YEAST-NONE EPI-0 RENAL EPI-<1
___ 05:00PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-LG
___ 05:00PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 05:33PM   LACTATE-1.6
___ 05:33PM   TYPE-ART PO2-90 PCO2-23* PH-7.52* TOTAL 
CO2-19* BASE XS--1
___ 10:30PM   GLUCOSE-96 UREA N-6 CREAT-0.8 SODIUM-137 
POTASSIUM-3.2* CHLORIDE-106 TOTAL CO2-16* ANION GAP-18
___ 10:51PM   LACTATE-1.1

MICROBIOLOGY:
=============
___ URINE Legionella Urinary Antigen -FINAL INPATIENT 
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL 
INPATIENT 
___ URINE,KIDNEY FLUID CULTURE-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 

IMAGING:
========
 
Brief Hospital Course:
On arrival Ms. ___ was fevrile, tachycardic, and tachypneic. 
FHT showed fetal tachycardia to the 180s. Labs showed 
leukocytosis to 18, pyuria, urine nitrites. Prior to transfer to 
___ she received ceftriaxone 1g and 2L of IVF. On transfer she 
was hypotensive to 80/40, with Tmax 104.7, HR 130-140s, satting 
95% on RA. With further resuscitation, her blood pressure 
improved, however she remained tachycardic. She was treated with 
vancomycin and zosyn. Renal ultrasound showed severe right 
hydroureteronephrosis, and so she underwent placement of right 
percutaneous nephrostomy on ___. 

Due to sustained tachycardia, she had a CTA to evaluate for 
pulmonary embolism.  Shortly after completion of the scan, while 
patient was still in radiology department, she became 
tachypneic, hypotensive, with more rapid HR to 140-150s, and 
hypoxemic to SPO2 in the ___ on room air. She was placed on 
non-rebreather and transferred back to the L&D unit. There she 
rapidly developed worsening respiratory distress.  On exam, she 
remained tachycardic but was normotensive; she was tachypneic, 
and auscultation showed bilateral rales and rhonchi. Unclear if 
patient had other complaints at this time. Due to severe 
distress, she was intubated (received propofol and 
succinylcholine). She was also given Lasix 20mg IV, with brisk 
urine output following administration. 

She was transferred to the ___ ICU for further care. 

ICU COURSE:

# Acute hypoxemic respiratory failure: 
Patient developed acute hypoxemia shortly after CTA, done for 
suspicion of PE because of unexplained tachycardia. Prior to CTA 
patient had been on room air. Exam demonstrated diffuse rales 
and wheezing. CTA motion degraded, but negative for significant 
PE, does show potential pneumonia. Initially considered ARDS due 
to pyelonephritis in pregnancy, although the rapid onset of 
hypoxemia would be unusual for this; P/F ratio 190. Also 
considered bronchospastic reaction to iodinated contrast 
(although did not have angioedema, hives, hypotension, that may 
be expected with anaphylaxis). Patient was given IV Lasix and 
had a very rapid response to diuresis raising a question of 
acute pulmonary edema due to fluid overload, although this was 
not reflected on exam or imaging. Patient was also started on 
broad spectrum antibiotics and was subsequently extubated within 
24 hours. She was de-escalated to ceftriaxone and azithromycin 
for treatment of CAP. ECHO with normal LVEF and no e/o systolic 
dysfunction. 

#Hypotension/Sepsis due to pyelonephritis:
Cultures from CHA growing pan-sensitive E. Coli. Hydronephrosis 
seen on ultrasound this admission has been present on ultrasound 
in ___ and ___ at ___. Has no imaging demonstrating 
presence of obstructing stone this admission, and with 
questionable chronic pyelo, unable to ensure she has new 
obstruction. Due to potential new obstruction, however, she had 
placement of right perc nephrostomy, currently in place. 
Initially on vanc/zosyn then de-escalated to ceftriaxone and 
azithromycin as above to cover both urine and pulmonary 
pathogens.

POST-ICU COURSE / ANTEPARTUM COURSE:

She was transferred out of the ICU in stable condition. She was 
monitored on telemetry and her pain was controlled initially 
with IV pain medications. She was transitioned to PO pain 
medications and her respiratory status continued to improve. She 
was initially continued on supplemental oxygen and was then 
transitioned to room air with normal O2 saturations. She 
ambulated on her own and her pain continued to be 
well-controlled with oral pain medications. She remained 
afebrile with normal vital signs. Her foley catheter was 
removed, and she had adequate urine output through voids as well 
as through her nephrostomy tube. She received a full course of 
antibiotics (IV azithromycin for 5 days) for her pneumonia and 
received ceftriaxone for her urosepsis. On the day of discharge, 
she was transitioned to oral cefpodoxime for a planned total 14 
day course. Fetal status was monitored twice daily with 
non-stress tests, which were reassuring. By hospital day 8, her 
pain was well controlled with oral medication, and she was 
discharged home in stable condition with outpatient follow-up as 
scheduled. 

 
Medications on Admission:
PNV, Lovenox, keflex
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
Do not exceed 4,000m gin 24 hours. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*60 Tablet Refills:*1 
2.  Cefpodoxime Proxetil 200 mg PO/NG Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice daily Disp 
#*18 Tablet Refills:*0 
3.  Cephalexin 250 mg PO Q24H 
Start after cefpodoxime course finishes. Continue for remainder 
of pregnancy.  
RX *cephalexin 250 mg 1 capsule(s) by mouth daily Disp #*14 
Capsule Refills:*0 
4.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*1 
5.  ___ ___ UNIT SC BID 
RX *heparin (porcine) 10,000 unit/mL 1 mL SC twice daily Disp 
#*50 Vial Refills:*0 
6.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
Do not drink alcohol or drive.  
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 4 hours Disp 
#*25 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
urosepsis, obstructed nephrolithiasis, DVT, pregnancy at 36 
weeks gestation, pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for kidney stone, kidney 
infection, urosepsis, and pneumonia. You have recovered well and 
the team feels you are ready to be discharged home. Please 
follow the instructions below.

- Please take cefpodoxime twice a day for the next 9 days, and 
then take Keflex once a day for the rest of the pregnancy. You 
will have visiting nurses who will help with dressing changes 
for your nephrostomy tube. Please present to your follow-up 
visit with Urology, which is detailed below. 

- Attend all appointments with your obstetrician and all fetal 
scans  

- Monitor for the following danger signs:  
- headache that is not responsive to medication  
- abdominal pain  
- increased swelling in your legs  
- vision changes  
- Worsening, painful or regular contractions  
- Vaginal bleeding  
- Leakage of water or concern that your water broke  
- Nausea/vomiting  
- Fever, chills  
- Decreased fetal movement  
- Other concerns  

 
Followup Instructions:
___